US05393755
2-Chloro-1-methyl-7-(phenylmethyl)purin-6-one
Heat 1-methyl-7-(phenylmethyl)purine-2,6-dione (8.0 g=31 mmol)in POCl3 (80 ml) at reflux 7 hr. Concentrate in vacuo, partition EtOAc-ice water, wash with water, dry and concentrate. Chromatograph on silica with 98:2 CH2Cl2 /MeOH to obtain the title compound as a foam, FAB MS: M+1=275.

reactant | 1-methyl-7-(phenylmethyl)purine-2,6-dione | 31 mmol, 8.0 g | CN1C(NC=2N=CN(C2C1=O)CC1=CC=CC=C1)=O | C13H12N4O2
reactant | POCl3 | 80 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-1-methyl-7-(phenylmethyl)purin-6-one | ClC=1N(C(C=2N(C=NC2N1)CC1=CC=CC=C1)=O)C | C13H11ClN4O
